Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bruising 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ woman with a history of paroxysmal atrial
fibrillation and ITP status post splenectomy presents with
thrombocytopenia. 

Patient was feeling fine until she bumped her upper thighs with 
a
chair and then noticed instant bruising.  She also noticed that
her left eye became extremely bloodshot and then turned
completely red.  She was worried that this was a flare of her 
ITP
and called her primary care doctor who told her to come in for
urgent labs.  Her blood was drawn today at outpatient clinic was
remarkable for platelet count less than 35 and she was advised 
to
come to the emergency room. 

Of note she had an admission similar to this a few years ago. 
During that time she was treated with prednisone, IVIG, and
Rituxan.  After Rituxan she said that her ITP improved and she
has been having her platelets checked once a month and they are
usually in the ___. 

She has ongoing paroxysmal atrial fibrillation for which she is
closely followed by cardiology.  One month ago she was started 
on
apixaban.  She stopped taking the apixaban 4 days ago after she
noticed the increasing bruising.

On arrival to the emergency room her vitals were T-max 97.9,
heart rate 73, blood pressure 165/88, respiratory rate 16 
satting
100% on room air.  Her labs were notable for a platelet count of
19 and INR of 1.0 hemoglobin of 13.5.  Her atrias oncologist was
called and recommended starting 60 mg of prednisone and plan for
IVIG tomorrow. 

On arrival to the floor she is feeling very well she hopes that
her platelets will improve quickly and that she will not have to
stay in the hospital too long.  She denies any other trauma,
fevers chills, sick contacts, chest pain shortness ___
 
Social History:
___
Family History:
No FHx of hematologic disease  
Brother - CAD/PVD  
Father - CAD/PVD  
Mother - ___ Hyperlipidemia; CVA  
 
Physical Exam:
ADMISSION EXAM:

VS: T 97.6, BP 155/89, RR 18, O2 95% room air General 
Appearance:
pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, + conjuctival injection left eye , anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: irregular, S1 and S2 wnl, no murmurs, rubs or
gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: Large bruise on upper thighs
Skin: Large bruising noticed on bilateral upper thighs left
greater than right 
neurological: Alert, oriented to self, time, date, reason for
hospitalization. 
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

Patient examined on day of discharge; bruises still present, no 
palatal petechiae, continues to have a subconjunctival 
hemorrhage in her left eye.
 
Pertinent Results:
LABORATORY RESULTS:

___ 06:35PM BLOOD WBC-5.8 RBC-4.26 Hgb-13.5 Hct-40.8 MCV-96 
MCH-31.7 MCHC-33.1 RDW-13.2 RDWSD-46.4* Plt Ct-19*
___ 06:14AM BLOOD WBC-2.6* RBC-4.29 Hgb-13.3 Hct-39.4 
MCV-92 MCH-31.0 MCHC-33.8 RDW-13.1 RDWSD-44.0 Plt Ct-23*
___ 07:23AM BLOOD WBC-9.5 RBC-4.02 Hgb-12.7 Hct-37.7 MCV-94 
MCH-31.6 MCHC-33.7 RDW-13.2 RDWSD-45.2 Plt Ct-60*
___ 07:23AM BLOOD Glucose-84 UreaN-13 Creat-0.8 Na-135 
K-4.7 Cl-99 HCO3-28 AnGap-8*
___ 07:23AM BLOOD Calcium-9.1
___ 06:14AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.___ woman with a history of paroxysmal atrial 
fibrillation and ITP status post splenectomy presents with 
thrombocytopenia concerning for flare of ITP.

#Thrombocytopenia
#ITP
Presenting with easy bruising found to have a platelet count of 
19. consistent with known history of ITP. Baseline she reports 
~60-70.  She received IVIG x 2 doses, and prednisone 60 mg, and 
her platelets rebounded to 60. She will continue on prednisone 
60 mg daily, and follow up with her oncologist for an outpatient 
taper. With unknown duration at this point, holding of TMP-SMX 
prophylaxis for PCP.

#Paroxysmal atrial fibrillation
Patient recently started on apixaban, it was initially held in 
the setting of thrombocytopenia but restarted after platelets 
reounded.  She was just seen by her cardiologist who at that 
time stopped atenolol and continued amiodarone and
Diltiazem.

#Subclinical hypothyroidism
Patient is being followed closely for elevated TSH, she had her
TSH checked as an outpatient today and it was elevated at 7 free
T4 was normal.  She does states she feels fatigued and
symptomatic and there has been discussion of whether she should
be started on levothyroxine.  Will defered to her outpatient
providers 

> 30 minutes spent on discharge activities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Amiodarone 200 mg PO DAILY 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Alendronate Sodium 70 mg PO Frequency is Unknown 
5. Sertraline 50 mg PO DAILY 
6. Pravastatin 40 mg PO QPM 
7. Ranitidine 150 mg PO DAILY 
8. Cyanocobalamin 500 mcg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 60 mg PO DAILY  
2.  Alendronate Sodium 70 mg PO QMON  
3.  Amiodarone 200 mg PO DAILY  
4.  Apixaban 5 mg PO BID  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  Diltiazem Extended-Release 120 mg PO DAILY  
7.  Pravastatin 40 mg PO QPM  
8.  Ranitidine 150 mg PO DAILY  
9.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___, 

You were admitted with a flare of your ITP and decreased 
platelets, we gave you your prednisone and IVIG to help with 
this. You platelets improved to 60 on day of discharge. You will 
have your labs drawn on ___, and follow up with your Atrius 
hematologist.
 
Followup Instructions:
___